US04876346
(B) 1,1,1-Trifluoro-N-[2-hydroxy-2-[3-(2-quinolinylmethoxy)phenyl]ethyl]methane sulfonamide
To a solution of 6.4 g (0.02 mol) of 5-[3-(2-quinolinylmethoxy)phenyl]-2-oxazolidinone, 2.6 g (0.02 mol) of diisopropylethylamine in 200 ml of methylene chloride is added a solution of 6.5 g (0.023 mol) of trifluoromethane sulfonic acid anhydride in 100 ml of methylene chloride over 1/2 hour while cooling to -70° C. The mixture is allowed to warm to room temperature over a period of 2 hours and the solvent is evaporated. The residue is dissolved in 100 ml of methanol and 60 ml of Claisen's alkali and the mixture is stirred for 1 hour at 28° C. The mixture is diluted with water, washed with methylene chloride and acidified to pH 3. The solution is extracted twice with methylene chloride. The methylene chloride is dried over anhydrous magnesium sulfate, filtered and evaporated to obtain a greenish residue (5.6 g). The greenish residue is triturated with diethyl ether to obtain crystals (2.4 g). The crystals are chromatographed on silica gel with hexane and ethyl acetate as eluent. Fractions 4-6 are combined, the solvent is evaporated and the residue is triturated with ethyl ether to obtain crystals (1.5 mg) m.p. 142°-144° C.

reactant | 5-[3-(2-quinolinylmethoxy)phenyl]-2-oxazolidinone | 0.02 mol, 6.4 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C1CNC(O1)=O | C19H16N2O3
reactant | diisopropylethylamine | 0.02 mol, 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethane sulfonic acid anhydride | 0.023 mol, 6.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[2-hydroxy-2-[3-(2-quinolinylmethoxy)phenyl]ethyl]methane sulfonamide | 5.6 g | FC(S(=O)(=O)NCC(C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1)O)(F)F | C19H17F3N2O4S
